US07094900B2
Step 3. N-({(5S)-3-[4-(1-methyl-6-oxopiperidin-3-yl)phenyl]-2-oxo-1,3-oxazolidin-5-yl}methyl)acetamide
To a mixture of N-({(5S)-3-[4-(1-methyl-6-oxo-1,6-dihydropyridin-3-yl)phenyl]-2-oxo-1,3-oxazolidin-5-yl}methyl)acetamide (0.179 g. 0.52 mmol) in 20 mL of MeOH is added 0.05 g of 10% palladium on activated charcoal. The mixture is hydrogenated at 50 psi for 16 hours. The reaction mixture is filtered through celite, silica is added and the mixture is concentrated to dryness. The residue is loaded onto a SIM and purified on a Biotage 12S column with 2% MeOH in CH2Cl2 to yield the desired compound (0.175 g, 96%). 1H-NMR (DMSO) δ: 8.25, 7.41, 4.70, 4.10, 3.74, 3.39, 3.17, 2.83, 2.32, 2.01, 1.83

reactant | N-({(5S)-3-[4-(1-methyl-6-oxo-1,6-dihydropyridin-3-yl)phenyl]-2-oxo-1,3-oxazolidin-5-yl}methyl)acetamide | 0.52 mmol, 0.179 g | CN1C=C(C=CC1=O)C1=CC=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O | C18H19N3O4
solvent | MeOH | 20 mL | CO | CH4O
catalyst | palladium on activated charcoal | 0.05 g | [Pd] | Pd
product | N-({(5S)-3-[4-(1-methyl-6-oxopiperidin-3-yl)phenyl]-2-oxo-1,3-oxazolidin-5-yl}methyl)acetamide | 0.175 g, 96% | CN1CC(CCC1=O)C1=CC=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O | C18H23N3O4
